US08242133B2
To a mixture of 5 g of 3-tert-butylphenol and 30 ml of acetic acid, a mixture of 3.0 g of 70% nitric acid and 10 ml of acetic acid was added dropwise with the temperature kept at 10-15° C. and stirred for two hours. The reaction mixture was poured into ice water and extracted with ethyl acetate twice. The combined organic layers were washed with water, a saturated aqueous solution of sodium hydrogencarbonate and a saturated sodium chloride solution, dried over magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 1.82 g of 5-tert-butyl-2-nitrophenol.

reactant | 3-tert-butylphenol | 5 g | C(C)(C)(C)C=1C=C(C=CC1)O | C10H14O
reactant | nitric acid | 3.0 g | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 5-tert-butyl-2-nitrophenol | 1.82 g | C(C)(C)(C)C=1C=CC(=C(C1)O)[N+](=O)[O-] | C10H13NO3
